US07429609B2
1-(5-Bromo-6-fluoro-indazol-1-yl)ethanone
To a solution of 77.0 g of N-(4-bromo-5-fluoro-2-methylphenyl)acetamide in 930 mL of toluene were added 93.0 mL of acetic anhydride and 37.0 g of potassium acetate at room temperature, and the resultant solution was heated at 90° C., slowly added dropwise with 67.0 mL of isoamyl nitrite, and stirred at this temperature for 3 hours. After diluting with ethyl acetate, washing successively with water and saturated brine, and drying over anhydrous magnesium sulfate, the solvent was evaporated. The precipitated crystals were washed with diethyl ether:n-hexane=1:10, the filtrate concentrated and purified and separated by silica gel column chromatography (ethyl acetate:n-hexane=0:100-1:5) and finally combined with the previous crystals, to afford 22.5 g of the title compound as pale brown crystals.

reactant | N-(4-bromo-5-fluoro-2-methylphenyl)acetamide | 77.0 g | BrC1=CC(=C(C=C1F)NC(C)=O)C | C9H9BrFNO
reactant | acetic anhydride | 93.0 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | potassium acetate | 37.0 g | C(C)(=O)[O-].[K+]
reactant | isoamyl nitrite | 67.0 mL | N(=O)OCCC(C)C | C5H11NO2
solvent | toluene | 930 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(5-Bromo-6-fluoro-indazol-1-yl)ethanone | 22.5 g | BrC=1C=C2C=NN(C2=CC1F)C(C)=O | C9H6BrFN2O
